US04833164
2-Cyclohexenyl-1-naphthol
A solution of the product of Part A (3.30 g, 0.012 mole) in ethanol (100 mL) and 1.0N hydrochloric acid (100 mL) was stirred at room temperature for 5 hours. The ethanol was removed under reduced pressure, and the crude product was isolated by extraction with ethyl acetate. Chromatography with 95:5 hexane/ethyl acetate provided a white solid which was recrystallized (hexane) to give the title compound (1.59 g, 62%) as white crystals, mp 82°-83°.

reactant | hydrochloric acid | 1.0N, 100 mL | Cl | ClH
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Cyclohexenyl-1-naphthol | 1.59 g, 62% | C1(=CCCCC1)C1=C(C2=CC=CC=C2C=C1)O | C16H16O
